US06528525B1
(c) 4-[3-(4-pyridine-2-ylbenzoylamino)propyl]benzylchloride
Methanesulfonyl chloride (294 mg) and triethylamine (0.37 ml) were successively added to a solution of 4-[3-(4-pyridine-2-ylbenzoylamino)propyl]benzylalcohol (0.74 g) in dichloromethane (20 ml). The mixture was allowed to stand at ambient temperature for 16 hours. The reaction mixture was concentrated. The residue was partitioned between ethyl acetate and water. The ethyl acetate layer was separated and washed with saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate and concentrated to afford crystals. The crystals were washed with a small amount of diisopropyl ether to afford the desired compound (0.68 g).

reactant | Methanesulfonyl chloride | 294 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.37 ml | C(C)N(CC)CC | C6H15N
reactant | 4-[3-(4-pyridine-2-ylbenzoylamino)propyl]benzylalcohol | 0.74 g | N1=C(C=CC=C1)C1=CC=C(C(=O)NCCCC2=CC=C(CO)C=C2)C=C1 | C22H22N2O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-[3-(4-pyridine-2-ylbenzoylamino)propyl]benzylchloride | 0.68 g | N1=C(C=CC=C1)C1=CC=C(C(=O)NCCCC2=CC=C(CCl)C=C2)C=C1 | C22H21ClN2O
